Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors
 
Attending: ___.
 
Chief Complaint:
tongue swelling
 
Major Surgical or Invasive Procedure:
Intubation

 
History of Present Illness:
___ yo male with history of ESRD s/p living unrelated kidney 
transplant in ___ presented to the ER in the middle of the 
night with tongue swelling. Per report, the pt noted he woke up 
from his sleep at 3 Am and felt that his mouth had been forced 
open.  
In the ER he was statting 93% on RA and could barely speak. He 
received 125 mg IV solumedrol, 50 mg IV benadryl, 20 mg IV 
pepcid and 0.3 cc of 1:1000 epinephrine sc, but his symptoms 
only got worse. He was thought to have angioedema and 
fiberoptically intubated by anesthesia.  
.  
Upon arrival to the floor the pt was intubated and sedated. 
Additional history obtained from his mother who lives with him. 
She did not know his medication list, but stated this had never 
happened to the pt before and she did not think there had been 
any recent medication changes. Only notable thing was that pt 
ate "hot sauce" last night which was different for him.  
.
Medications brought in by family following admission, includes 
(recently added) benazepril.  
 
Past Medical History:
HTN  
ESRD s/p living unrelated kidney transplant in ___  
sleep apnea on CPAP  
DM2  
H./o colon cancer s/p right colectomy by Dr. ___ ___. 
No chemotherapy.  
History of bilateral lower extremity edema.  
s/p L AV fistula  
hypercholesterolemia  
admission for ___ cellulitis ion ___  
h/o GIB  

 
Social History:
___
Family History:
unknown
 
Physical Exam:
VS: T: 06.9 HR: 71 BP: 120/79 RR: 14 O2 Sat: 100% on vent  
AC: 600x14 FIO2 1 PEEP 5  
GEN: intubated, moving around, couging  
HEENT: intubated, edematous tongue  
Neck: supple  
Cardio: RRR, nl S1 S2, no m/r/g  
Pulm: CTAB ant, no w/r/r,no stridor  
Abd: soft, NT, ND, + BS  
Ext: no edema, 2+ DP pulses  
Neuro: sedated, moving around, grimacing and coughing, moving 
upper and lower ext; PERRL  
Skin: no rashes or hives  

 
Pertinent Results:
___ 06:15AM BLOOD WBC-4.9 RBC-3.86* Hgb-13.3* Hct-39.0* 
MCV-101* MCH-34.3* MCHC-34.0 RDW-14.9 Plt Ct-58*
___ 06:14AM BLOOD WBC-7.1# RBC-4.06* Hgb-14.0 Hct-40.2 
MCV-99* MCH-34.4* MCHC-34.8 RDW-15.4 Plt Ct-67*
___ 12:27AM BLOOD WBC-3.4* RBC-4.20* Hgb-14.9 Hct-41.9 
MCV-100* MCH-35.4* MCHC-35.5* RDW-14.6 Plt Ct-64*
___ 05:04AM BLOOD WBC-3.6* RBC-4.07* Hgb-14.4 Hct-41.0 
MCV-101* MCH-35.4* MCHC-35.1* RDW-14.7 Plt Ct-78*
___ 06:15AM BLOOD Glucose-223* UreaN-48* Creat-2.2* Na-141 
K-3.5 Cl-101 HCO3-29 AnGap-15
___ 06:14AM BLOOD Glucose-267* UreaN-38* Creat-2.0* Na-143 
K-4.3 Cl-102 HCO3-29 AnGap-16
___ 12:27AM BLOOD Glucose-268* UreaN-35* Creat-1.9* Na-139 
K-4.1 Cl-103 HCO3-24 AnGap-16
___ 06:15AM BLOOD tacroFK-10.4
___ 08:55AM BLOOD Type-ART FiO2-100 pO2-443* pCO2-40 
pH-7.43 calTCO2-27 Base XS-2 AADO2-252 REQ O2-48 
Intubat-INTUBATED
 
Brief Hospital Course:
# Angioedema: Initially unclear precipitant for angioedema, 
however, after family brought in meds following admission, an 
ACE inhibitor was among them (had not previously been known to 
be on ACE) and most likely due to this. No family or personal 
history of angioedema.  No rash or hypotension.  IV steroids 
(with transition to PO taper) started along with benadryl and 
pepcid.  He was extubated easily on ___ following resolution 
of the swelling.  ACE inhibitor was added to his allergy list.  
He was discharged on a prednisone taper.

# ESRD s/p txplnt in ___: Pt with unrelated living donor 
txplnt.  Azathioprine and prograf were continued.  The renal 
transplant team followed him during admission.
  
# HTN: Rrestarted home regimen with exception of ACE inhibitor.
 
# DM: SSI and qid ___. 

# Sleep apnea: not using CPAP regularly at home.

 
Medications on Admission:
(meds brought in by family)
Benazepril-HCTZ 1 tablet PO QD  
Bactrim SS PO QD  
Vitamin D 1.25 MG PO QD  
HCTZ 25 mg PO QD  
Azathioprine 100 mg PO QD  
Prograf 3 mg PO BID (vs. 1 mg PO BID - unclear)
Amlodipine 10 mg PO QD  
Carvedilol 25 mg PO BID  
Lipitor 80 mg PO QD  
Aspirin 81 mg PO QD  

 
Discharge Medications:
1. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
3. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
4. Carvedilol 25 mg Tablet Sig: One (1) Tablet PO twice a day.  
5. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
6. Azathioprine 100 mg Tablet Sig: One (1) Tablet PO once a day. 
 
7. Tacrolimus 1 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).  
8. Amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
10. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
12. Prednisone 10 mg Tablet Sig: as below Tablet PO Daily () for 
3 days: Take 3 tablets for one day (30mg), followed by 2 tablets 
for one day (20mg) and 1 tablet for one day (10mg).
Disp:*6 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Angioedema likely secondary to ACE-I
Secondary:
ESRD s/p living transplant on chronic immunosupression
Type II Diabetes
Hypertension

 
Discharge Condition:
Stable with decreased tongue swelling

 
Discharge Instructions:
You were admitted to the hospital with a likely allergic 
reaction to a medication you were taking, benzapril.

While you were in the hospital, you required intubation to help 
you breath because of your swollen tongue.  We treated you with 
steroids and your tongue swelling improved.

If you develop any shortness of breath, chest pain, swelling, 
rash or any other concerning symptoms, you should call your 
doctor or come to the emergency room.
 
Followup Instructions:
___